US08633313B2
To a mixture of 1-(7-fluoro-2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridin-3-yl)ethanamine (300 mg, 0.86 mmol) and 4-amino-6-chloropyrimidine-5-carbonitrile (135 mg, 0.86 mmol) in n-butanol (5.2 mL) was added diisopropylethyl amine (336 mg, 2.6 mmol) at 25° C. The reaction mixture was stirred for overnight at 110° C. Water was added to the reaction mixture and extracted with EtOAc. The organic layer was dried over Na2SO4 and concentrated it. The residue was purified by column chromatography on neutral alumina using 0-5% MeOH in DCM. It was further purified by reversed-phase HPLC to give 4-amino-6-((1-(7-fluoro-2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridin-3-yl)ethyl)amino)-5-pyrimidinecarbonitrile: 1H NMR (400 MHz, DMSO-d6): δ 1.380 (d, 3H, J=6.8 Hz), 3.215 (s, 3H), 5.240-5.310 (m, 1H), 7.256 (br s, 2H), 7.718-7.828 (m, 2H), 7.934-7.950 (m, 3H), 8.123 (dd, 1H, J=1.2 Hz, 7.6 Hz), 8.336 (dd, 1H, J=2.4 Hz, 9.6 Hz). 8.678 (s, 1H), 9.117 (d, 1H, J=2.8 Hz); LC-MS (ESI) m/z 464.2 [M+H]+.

reactant | 1-(7-fluoro-2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridin-3-yl)ethanamine | 0.86 mmol, 300 mg | FC1=CN=C2C=C(C(=NC2=C1)C1=C(C=CC=C1)S(=O)(=O)C)C(C)N | C17H16FN3O2S
reactant | 4-amino-6-chloropyrimidine-5-carbonitrile | 0.86 mmol, 135 mg | NC1=NC=NC(=C1C#N)Cl | C5H3ClN4
reactant | diisopropylethyl amine | 2.6 mmol, 336 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | n-butanol | 5.2 mL | C(CCC)O | C4H10O
product | 4-amino-6-((1-(7-fluoro-2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridin-3-yl)ethyl)amino)-5-pyrimidinecarbonitrile | NC1=NC=NC(=C1C#N)NC(C)C=1C(=NC2=CC(=CN=C2C1)F)C1=C(C=CC=C1)S(=O)(=O)C | C22H18FN7O2S
